US06624309B1
A. 4-[[(1-Ethoxypentylidene)amino]carbonyl]benzoic Acid Methyl Ester
To a solution of ethyl pentanimidate hydrochloride (9 g, 54 mmol) and triethyl amine (17 mL, 120 mmol) in toluene (110 mL) at 0° C. was added, over 20 minutes, a solution of terephthalic acid, monomethyl ester chloride (10.8 g, 54 mmol) in toluene (21 mL). After stirring at ambient temperature for 19 hours, the reaction was filtered and the solids were rinsed with toluene (200 mL). The combined filtrates were concentrated in vacuo. Flash chromatography (silica gel, CH2Cl2) of a portion of this material afforded the title compound (1.9 g, 47%).

reactant | ethyl pentanimidate hydrochloride | 54 mmol, 9 g | Cl.C(CCCC)(OCC)=N
reactant | triethyl amine | 120 mmol, 17 mL | C(C)N(CC)CC | C6H15N
reactant | terephthalic acid, monomethyl ester chloride | 54 mmol, 10.8 g | [Cl-].C(C1=CC=C(C(=O)[O-])C=C1)(=O)OC
solvent | toluene | 110 mL | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 21 mL | C1(=CC=CC=C1)C | C7H8
product | 4-[[(1-Ethoxypentylidene)amino]carbonyl]benzoic Acid Methyl Ester | 1.9 g, 47% | COC(C1=CC=C(C=C1)C(=O)N=C(CCCC)OCC)=O | C16H21NO4
